US03950333
3,5-Dimethyl-4-isothiazolecarboxylic acid is converted to the methyl ester and the ester is reduced with lithium aluminium hydride in tetrahydrofuran to give 4-hydroxymethyl-3,5-dimethylisothiazole. Treating this hydroxymethyl compound with thionyl bromide gives 4-bromomethyl-3,5-dimethylisothiazole which is used as the starting material in the procedure of Example 121 to give N-cyano-N'-methyl-N"-[2-((3,5-dimethyl-4-isothiazolyl)-methylthio)ethyl]guanidine.

reactant | 3,5-Dimethyl-4-isothiazolecarboxylic acid | CC1=NSC(=C1C(=O)O)C | C6H7NO2S
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-hydroxymethyl-3,5-dimethylisothiazole | OCC=1C(=NSC1C)C | C6H9NOS
